US05086055
1-(4-Ethylaminophenyl)-4-phenylmethylpiperazine
N-[4-[4-(phenylmethyl)-1-piperazinyl]phenyl]acetamide is reduced with lithium aluminum hydride following standard chemical laboratory procedures to obtain the title compound.

reactant | N-[4-[4-(phenylmethyl)-1-piperazinyl]phenyl]acetamide | C1(=CC=CC=C1)CN1CCN(CC1)C1=CC=C(C=C1)NC(C)=O | C19H23N3O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 1-(4-Ethylaminophenyl)-4-phenylmethylpiperazine | C(C)NC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=CC=C1 | C19H25N3
